US05166380
0.19 g of 4,4'-(biphenyl) diphosphonic acid and 0.77 g of phosphorous acid are dissolved in 18 ml of DMSO in a plastic container kept at a temperature of 80° C. 0.80 g of ZrOCl2.8H2O dissolved in 1.5 ml of concentrated HF and 1 ml of water, are added to the clear solution. The solid obtained after 24 hours, separated, washed, dried and analysed as described in Example 1, gave a diphosphonic acid/phosphorous acid molar ratio of 0.8:1 and a distance between layers of 14 Å. Measurement of the surface area gives a value of 300 m2 /g with a pore distribution concentrated at a maximum at 22 Å.

reactant | 4,4'-(biphenyl) diphosphonic acid | 0.19 g | C1(=CC=C(C=C1)P(O)(=O)O)C1=CC=C(C=C1)P(O)(=O)O | C12H12O6P2
reactant | phosphorous acid | 0.77 g | P(O)(O)O | H3O3P
solvent | DMSO | 18 ml | CS(=O)C | C2H6OS
solvent | water | 1 ml | O | H2O
product | diphosphonic acid phosphorous acid | P(=O)(O)OP(=O)O.P(O)(O)O | InChI=1S/H4O5P2.H3O3P/c1-6(2)5-7(3)4;1-4(2)3/h6-7H,(H,1,2)(H,3,4);1-3H
